US07834062B2
Step A: 1-Methoxy-3,5-bis(1-hydroxy-2,2,2-trichloroethyl)benzene
To a solution of 0.60 g (5 mmol) of chloroform in 2 mL DMF was added 0.1 64 g (1.0 mmol) of 5-methoxy-1,3-diformylbenzene (Provent, C; Chautemps, P.; Gellon, G.; Pierre, J.-L. Tetrahedron Lett. 1996, 347 1393-96). The reaction mixture was chilled to 0° C. and a solution of 39.5 mg (0.7 mmol) of potassium hydroxide in 0.2 mL of methanol was added. The reaction mixture was stirred for 20 min at 0° C., then was quenched by addition of 1 mL of 1 N hydrochloric acid. The reaction mixture was adjusted to pH=7, then extracted with EtOAc. The organic layers were washed with brine, dried (Na2SO4), filtered and evaporated. The product was used in the next step without further purification.

reactant | chloroform | 5 mmol, 0.60 g | C(Cl)(Cl)Cl | CHCl3
reactant | 5-methoxy-1,3-diformylbenzene | COC=1C=C(C=C(C1)C=O)C=O | C9H8O3
reactant | potassium hydroxide | 0.7 mmol, 39.5 mg | [OH-].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | methanol | 0.2 mL | CO | CH4O
product | 1-Methoxy-3,5-bis(1-hydroxy-2,2,2-trichloroethyl)benzene | COC1=CC(=CC(=C1)C(C(Cl)(Cl)Cl)O)C(C(Cl)(Cl)Cl)O | C11H10Cl6O3
